US06114330
A solution of 4 g of phthalazine in 50 ml of tetrahydrofuran is added dropwise at room temperature to a solution of phenyl-magnesium bromide (prepared from 6 g of bromobenzene and 1 g of magnesium in 30 ml of tetrahydrofuran). The reaction mixture is held at reflux for 6 hrs. After cooling the mixture is treated with a saturated aqueous solution of ammonium chloride and extracted 3 times with diethyl ether. The organic phases are combined, dried and subsequently triturated with pentane. 2.32 g of not quite pure 1-phenyl-1,2-dihydro-phthalazine are isolated as a yellowish solid, m.p. 79° C.

reactant | phthalazine | 4 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | phenyl-magnesium bromide | 30 ml, 6 g | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-phenyl-1,2-dihydro-phthalazine | C1(=CC=CC=C1)C1NN=CC2=CC=CC=C12 | C14H12N2
